US06110962
(R)-2-[2,6-Dibromo-4-(6-methoxycarbonylmethoxy-benzo[b]naphtho[2,3-d]thiophen-11 -yl)-phenoxyl-3-phenyl-propionic acid methyl ester
To a solution of (R)-2-[2,6-dibromo-4-(6-hydroxy-benzo[b]naphtho[2,3-d ]thiophen-11-yl)-phenoxy]-3-phenyl-propionic acid methyl ester (0.60 g, 0.906 mmol) in anhydrous N,N-dimethylformamide was added potassuim carbonate (0.376 g, 2.72 mmol, 3 eq) and methylbromoacetate (0.26 mL, 2.72 mmol, 3 eq) at room temperature under a dry nitrogen atmosphere. After stirring for 24 hours the reaction mixture was combined with water (60 mL) the organics were extracted with diethyl ether (2×100 mL). The extracts were combined and washed with water (2×100 mL) and brine (100 mL). Silica gel was added and the solvents removed. The adsorbate was twice flash chromatographed (eluent 88/12 petroleum ether/ethyl acetate and 85/15 ethyl ether/ethyl acetate) to provide the title compound as a white solid (0.493 g, 73%): NMR (CDCl3); δ8.38 (d, J=8 Hz, 1 H), 7.81 (d, J =Hz, 1 H), 7.64-7.59 (m, 3 H), 7.55 (d, J=8 Hz, 1 H), 7.48 (ddd, J=8, 7, 1 Hz, 1 H), 7.43-7.26 (m, 6 H), 7.16 (ddd, J=8,7,1 Hz, 1 H), 6.79 (d, J=8 Hz, 1 H), 5.25 (dd, J=8, 6 Hz, 1 H), 4.94 (s, 2 H), 3.92 (s, 3 H), 3.76 (s, 3 H), 3.57 (septet, J=7 Hz, 2 H); MS (EI): [M+], 2 bromine isotope pattern, 732 (1.8%), 734 (4%), 736 (0.8%); Anal. Calc. for C35H26Br2O6S:, 57.24, H, 3.57, N, 0.00. Found: C, 57.01, H, 3.42, N, -0.07.

reactant | (R)-2-[2,6-dibromo-4-(6-hydroxy-benzo[b]naphtho[2,3-d ]thiophen-11-yl)-phenoxy]-3-phenyl-propionic acid methyl ester | 0.906 mmol, 0.60 g | COC([C@@H](CC1=CC=CC=C1)OC1=C(C=C(C=C1Br)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)O)Br)=O | C32H22Br2O4S
reactant | carbonate | 2.72 mmol, 0.376 g, 3 eq | C([O-])([O-])=O
reactant | methylbromoacetate | 2.72 mmol, 0.26 mL, 3 eq | COC(CBr)=O | C3H5BrO2
reactant | water | 60 mL | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 2,6-Dibromo-4-(6-methoxycarbonylmethoxy-benzo[b]naphtho[2,3-d]thiophen-11 -yl)-phenoxyl-3-phenyl-propionic acid methyl ester | 0.493 g, 73% | COC(C(CC1=CC=CC=C1)OC1=C(C=C(C=C1Br)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)OCC(=O)OC)Br)=O | C35H26Br2O6S
